US07956069B2
The preparation of 1-(2-methylbenzoyl)piperidin-4-one
To a solution of 2-methylbenzoyl chloride (800 mg, 5.2 mmol) in 5 mL of DICHLOROMETHANE was added a mixture of piperidine-4,4-diol hydrochloride salt 800 mg, 5.2 mmol) and potassium carbonate (716 mg, 5.2 mmol) in 5 mL H2O and stirred at room temperature for 2 hours. Layers were separated and aqueous layer was extracted with dichloromethane (3×10 mL). Organic layers were combined, dried, filtered and the filtrate was concentrated in vacuo to give the tile compound (1.2 g) as light yellow oil. MS (M+1): 218.0

reactant | 2-methylbenzoyl chloride | 5.2 mmol, 800 mg | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | piperidine-4,4-diol hydrochloride salt | 5.2 mmol, 800 mg | Cl.N1CCC(CC1)(O)O
reactant | potassium carbonate | 5.2 mmol, 716 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DICHLOROMETHANE | 5 mL | ClCCl | CH2Cl2
solvent | H2O | 5 mL | O | H2O
product | 1-(2-methylbenzoyl)piperidin-4-one | 1.2 g | CC1=C(C(=O)N2CCC(CC2)=O)C=CC=C1 | C13H15NO2
